US05948775
3-[4-(2-Chloro-ethoxy)-phenyl]-8-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one
To a solution of 17.28 g (0.0394 mol) of 3-[4-(2-chloro-ethoxy)-phenyl]-8-methoxy-2-(4-methoxy-phenyl)-2,3-dihydro-1H-quinazolin-4-one in 300 mL of toluene was added 8.94 g (0.0394 mol) 2,3-dichloro-5,6-dicyano-1,4-benzoquinone. The reaction mixture was stirred and heated to reflux for 3 hours. The toluene then was removed in a rotary evaporator. Methanol (300 mL) was added to the reaction flask which was allowed to stir at room temperature overnight. The precipitate (mp 209-211° C.) was collected by vacuum filtration and amounted to 15.8 g.

reactant | 3-[4-(2-chloro-ethoxy)-phenyl]-8-methoxy-2-(4-methoxy-phenyl)-2,3-dihydro-1H-quinazolin-4-one | 0.0394 mol, 17.28 g | ClCCOC1=CC=C(C=C1)N1C(NC2=C(C=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H23ClN2O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.0394 mol, 8.94 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(2-Chloro-ethoxy)-phenyl]-8-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one | ClCCOC1=CC=C(C=C1)N1C(=NC2=C(C=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H21ClN2O4
